* /home/kanish/mixed_signal_phase_frequency_detector_using_sky130/phase_freq_detect/phase_freq_detect.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
* u6  net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u2-pad1_ ? d_posedge_ff
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ? d_posedge_ff
v1  clka gnd pulse(0 1.8 2m 0.1m 0.1m 13m 30m)
v2  clkb gnd pulse(0 1.8 7m 0.1m 0.1m 5m 20m)
* u7  up plot_v1
* u8  down plot_v1
* u9  clka plot_v1
* u10  clkb plot_v1
* s c m o d e
v3 vdd gnd  dc 1.8
* u5  clkb rst vdd net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u3  clka rst vdd net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ adc_bridge_3
* u2  net-_u2-pad1_ up dac_bridge_1
* u4  net-_u1-pad4_ down dac_bridge_1
xsc1 net-_sc1-pad1_ up vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc5 rst net-_sc1-pad1_ vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc4 net-_sc1-pad1_ down vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc2 net-_sc1-pad1_ up net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc2-pad3_ down gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 rst net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
* u11  rst plot_v1
a1 [net-_u3-pad4_ ] [net-_u3-pad5_ ] [net-_u3-pad6_ ] [net-_u2-pad1_ ] [? ] u6
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] [? ] u1
a3 [clkb rst vdd ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u5
a4 [clka rst vdd ] [net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] u3
a5 [net-_u2-pad1_ ] [up ] u2
a6 [net-_u1-pad4_ ] [down ] u4
* Schematic Name:                             d_posedge_ff, NgSpice Name: d_posedge_ff
.model u6 d_posedge_ff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             d_posedge_ff, NgSpice Name: d_posedge_ff
.model u1 d_posedge_ff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-03 150e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(up)
plot v(down)
plot v(clka)
plot v(clkb)
plot v(rst)
.endc
.end
